US07820822B2
F: 7,7-Dimethyl-8-fluorodibenzo[de,h]quinoline
26.1 g (92.82 mmol) of 1-[2-(1-methyl-1-hydroxyethyl)-3-fluorophenyl]isoquinoline were added to a mixture at 150° C. of 260 ml of o-dichlorobenzene and 104.2 ml of H2SO4, and stirred for 60 min. The reaction solution was subsequently poured onto 1000 ml of ice and adjusted cautiously to pH=12 with solid NaOH with ice cooling. Subsequently, the mixture was extracted with 500 ml of dichloromethane, dried over MgSO4 and concentrated under reduced pressure. The crude product was dissolved in 100 ml of toluene and air was introduced at 50° C. for 4 h. Subsequently, purification was effected by column chromatography with dichloromethane. 18.45 g of a solid were obtained, corresponding to 75.5% of theory, with a purity of 99.6%.

reactant | 1-[2-(1-methyl-1-hydroxyethyl)-3-fluorophenyl]isoquinoline | 92.82 mmol, 26.1 g | CC(C)(O)C1=C(C=CC=C1F)C1=NC=CC2=CC=CC=C12 | C18H16FNO
reactant | H2SO4 | 104.2 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | o-dichlorobenzene | 260 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 7,7-Dimethyl-8-fluorodibenzo[de,h]quinoline | 18.45 g | CC1(C=2C=3C(=CC=NC3C3=C1C(=CC=C3)F)C=CC2)C | C18H14FN
